US05153214
To a solution of 10 ml (65 mmol) diisopropylamine in 120 ml dry tetrahydrofuran is added dropwise 26 ml of a 2.5M solution of n-butyllithium in hexane and the mixture is stirred for 15 min. To this solution is added slowly a solution of 10.11 g (32 mmol) of 2-methyl-4-(4-t-butyldimethylsilyloxybutyl)-epsilon-caprolactone in 48 ml dry tetrahydrofuran. The mixture is stirred at room temperature for 35 min and 14.0 ml (0.22 mole) of methyl iodide is added rapidly while the flask is cooled in a water bath. After stirring for 3.5 h, the reaction is quenched using saturated ammonium chloride solution and is extracted with ether. The organic phase is washed with water and brine, dried, filtered and concentrated to give an amber oil which is purified by silica gel chromatography using 3:2 hexane/ether to give impure product. Further purification by a second silica gel chromatography using 4:1 hexane/ether as eluent yields 2,2-dimethyl-4-(4-t-butyldimethylsilyloxybutyl)-epsilon-caprolactone; NMR (CDCl3): delta 4.32 (t,2H), 3.6 (t,2H), 1.3 (d,6H), 0.88 (s,9H).

reactant | diisopropylamine | 65 mmol, 10 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-methyl-4-(4-t-butyldimethylsilyloxybutyl)-epsilon-caprolactone | 32 mmol, 10.11 g | CC1C(=O)OCCC(C1)CCCCO[Si](C)(C)C(C)(C)C | C17H34O3Si
reactant | methyl iodide | 0.22 mole, 14.0 ml | CI | CH3I
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 48 ml | O1CCCC1 | C4H8O
product | 2,2-dimethyl-4-(4-t-butyldimethylsilyloxybutyl)-epsilon-caprolactone | CC1(C(=O)OCCC(C1)CCCCO[Si](C)(C)C(C)(C)C)C | C18H36O3Si
